Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 etoh withdrawal  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o, primarily ___ speaking (but conversational in 
___ presents with HA and shaking after stopping drinking. 
Pt reports drinking 1 large bottle of cognac daily x `1 week. He 
attests to being sober for 3 months prior to this binge. Last 
drink was ___ afternoon. The HA is frontal and intense but 
similar to prior HA. no Vision or hearing changes. Pt also 
reports N/V and diffuse abd pain starting today. No 
hematemeisis. Pain is discribed as intense. He says it is 
different than his typical pancreatitis pain, but he can not 
discribe in what way. Pain improves with vomitting. No diarrhea 
or constipation. Pt reports feeling tremulous. Subjective 
fevers. Pt endorses h/o etoh withdrawal seizures. He endorses 
depression but denies SI/HI now or ever.  
.  
In the ED, initial VS: 98.0, 78, 150/89, 17, 100%RA. Pt received 
10mg PO valium and 4mg IV zofran in ED. CIWA of ___. Pt was 
tachy in ED and diaphoretic. Also complained of belly discomfort 
and vomitted. Labs and abd exam benign. MS oriented. VS prior to 
transfer 125/78, 93, 17, 95% RA.  
.  
Upon arrival to the floor the pt was seen inducing vomitting 
multiple times and complained of a headache. He complains of a 
HA.  
.  
Pt was admitted ___ with etoh withdrawal and abd pain but 
left AMA the same day.  
.  
ROS: Denies, chills, night sweats, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
, diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
1.  Recurrent pancreatitis complicated by necrosis in ___ secondary to alcohol abuse.
2.  Hypertension.
3.  History of a seizure disorder; status post a motor vehicle 
accident in ___ (negative magnetic resonance 
imaging and electroencephalogram).
4.  Status post left knee surgery.
5.  History of alcohol abuse with episodes of withdrawal.

 
Social History:
___
Family History:
Father had kidney cancer
 
Physical Exam:
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae erythematous, MMM, OP clear 
 
NECK - supple, no JVD,  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored 
 
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - soft/ND, mild epigastric tenderness. No rebound or 
guarding. no masses or HSM,  
EXTREMITIES - WWP, no c/c/e, 2+ DPs  
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, not tremulous. 
muscle strength ___ throughout, sensation grossly intact 
throughout, DTRs 2+ and symmetric, cerebellar exam intact, 
steady gait. Normal visual fields  
 

 
Pertinent Results:
___ 07:20AM BLOOD WBC-7.2 RBC-4.89 Hgb-14.6 Hct-40.8 MCV-83 
MCH-29.8 MCHC-35.8* RDW-13.4 Plt ___
___ 07:50PM BLOOD WBC-5.6 RBC-5.12 Hgb-15.7 Hct-42.4 MCV-83 
MCH-30.6 MCHC-37.0* RDW-13.2 Plt ___
___ 07:50PM BLOOD Neuts-50.4 Lymphs-42.3* Monos-5.1 Eos-1.0 
Baso-1.2
___ 07:20AM BLOOD Glucose-98 UreaN-9 Creat-0.9 Na-138 K-3.8 
Cl-100 HCO3-24 AnGap-18
___ 07:50PM BLOOD Glucose-125* UreaN-11 Creat-1.1 Na-135 
K-3.5 Cl-94* HCO3-24 AnGap-21*
___ 07:50PM BLOOD ALT-27 AST-30 AlkPhos-42 TotBili-0.9
___ 07:20AM BLOOD Albumin-4.3 Mg-1.9
___ 07:50PM BLOOD Lipase-31
___ 07:50PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 08:09AM BLOOD Lactate-2.4*
.

 
Brief Hospital Course:
HOSPITAL COURSE
This is a ___ year old gentleman  with a history of multiple 
admissions for alcohol withdrawal who presented with 
tachycardia, vomitting, diaphoresis consistent with Etoh 
withdrawal.  He was treated with diazepam overnight and left 
against medical advice the following morning 
.  
ACTIVE ISSUES
# ETOH WITHDRAWAL: History of chronic ETOH use complicated by 
pancreatitis in the past with recent admission in ___ for 
management of withdrawal symptoms.  The patient's CIWA scale was 
24 on admission which improved significantly with 10mg diazepam. 
He only scored positive on the CIWA scale twice. The patient 
reports a history of withdrawal seizures however on 
clarification appears to be more consistent with tremors. 
History of prior seizure after motor vehicle accident ___ years 
ago. No evidence of pancreatitis on lab work. Alchohol cessation 
was discussed with the patient who wanted treatment only for 
withdrawal not abstinence.  A social work consult was requested. 
 He was given thiamine folate and a multivitamin intravenously.  
At mid-day following admission the patient was dressed and found 
at the elevators preparing to leave.  The danger of alcohol 
withdrawal and risk of seizures and even death was discussed.  
The patient understood the importance of seeking medical 
attention if his withdrawal returned.
.  
# ELEVATED AG: AG 17 on admission improved to 14 the following 
morning. Likely in setting of etoh and with ketones in UA.  
Lactate only marginally elevated at 2.4.
.  
# HEADACHE: Headache per review of prior discharge summaries is 
a typical withdrawal symptoms for this patient. Improved 
headache with treatment of withdrawal symptoms overnight with 
valium. 
.  
# N/V, ABDOMINAL PAIN: Abdominal pain in this patient concerning 
for pancreatitis given multiple admissions in past for alcohol 
induced pancreatitis.  No evidence of pancreatitis on admission. 
 Patient report frequent emesis is causing abdominal pain.
He tolerated a solid diet prior to leaving AMA.
.  
# HISTORY OF DEPRESSION: The patient has a history of depression 
with psychiatric evaluations in the past for suicidal ideation.  
He did not present expressing suicidal ideation however 
completely off all psychiatric medications and more frequent 
admissions for alcohol withdrawal. The patient did not stay long 
enough to meet with social work. Prior to leaving, the 
importance of following up with his psychiatrist was stressed.
.
TRANSITIONAL ISSUES:
The patient left against medical advice. Follow-up with his 
primary care physician and psychiatrist was urged.  He does not 
take any medications regularly.
 
Medications on Admission:
not regularly taking any medications  
occasionally takes atenolol for HTN when he "feels his BP is 
bad".  

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You left the hospital against medical advice.  We discussed the 
risks of leaving including further alcohol withdrawal leading to 
possible seizures and even death.  You were aware of these risks 
and decided to leave.  Please follow up with your primary care 
physician and psychiatrist.  No changes were made to your 
medications.
 
Followup Instructions:
___